US09062048B2
Step G: Methyl 2-(((benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetate
A solution of benzyl (7-(trifluoromethyl)isoquinolin-1-yl)carbamate (212 mg, 0.61 mmol), from above step F in DMF (5 mL) was cooled in an ice bath and treated with NaH (27 mg, 0.67 mmol), and the mixture was stirred for 30 min and was treated with methyl bromoacetate (64 μL, 0.67 mmol). This solution was stirred and allowed to warm to room temperature over 18 h. The reaction was quenched with saturated NH4Cl and DMF was removed under vacuum. The residue was taken in EtOAc and washed with water, sat NaCl and dried over Na2SO4. EtOAc was removed under vacuum and the residue was purified by silica column chromatography to give the title compound.

reactant | benzyl (7-(trifluoromethyl)isoquinolin-1-yl)carbamate | 0.61 mmol, 212 mg | FC(C1=CC=C2C=CN=C(C2=C1)NC(OCC1=CC=CC=C1)=O)(F)F | C18H13F3N2O2
reactant | NaH | 0.67 mmol, 27 mg | [H-].[Na+]
reactant | methyl bromoacetate | 0.67 mmol, 64 μL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(((benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetate | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OC)C1=NC=CC2=CC=C(C=C12)C(F)(F)F | C21H17F3N2O4
